US04016159
A suspension of 6.15 g of 4-amidino-2-methoxy-phenoxyacetic acid in 60 ml of benzene and 10 ml of thionyl chloride was combined with 0.2 ml of dimethylformamide and heated. After 2 hours at 65° C, a well stirrable, colorless suspension had formed. The precipitate was isolated, washed with benzene and di-isopropylether and dried. 6.5 g of 4-amidino-2-methoxy-phenoxyacetyl chloride-hydrochloride melting at 155° to 156° C (decomposition) were obtained.

reactant | 4-amidino-2-methoxy-phenoxyacetic acid | 6.15 g | C(N)(=N)C1=CC(=C(OCC(=O)O)C=C1)OC | C10H12N2O4
reactant | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-amidino-2-methoxy-phenoxyacetyl chloride-hydrochloride | 6.5 g | Cl.C(N)(=N)C1=CC(=C(OCC(=O)Cl)C=C1)OC | InChI=1S/C10H11ClN2O3.ClH/c1-15-8-4-6(10(12)13)2-3-7(8)16-5-9(11)14;/h2-4H,5H2,1H3,(H3,12,13);1H
